US04839374
A mixture of 3.3 parts of 2-bromothiazole, 5.09 parts of 4[[3-(2-furanylmethy)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidineethanamine, 3 parts of sodium carbonate and 45 parts of N,N-dimethylacetamide was stirred overnight at 130° C. The reaction mixture was poured into water and the product was extracted twice with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol saturated with ammonia (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in ethanol. The salt was filtered off and dried, yielding 2.5 parts (27%) of 4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-N-(2-thiazolyl)-1-piperidineethanamine ethanedioate (1:3); mp. 173.0° C. (352).

reactant | 2-bromothiazole | BrC=1SC=CN1 | C3H2BrNS
reactant | 4[[3-(2-furanylmethy)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidineethanamine | O1C(=CC=C1)CN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CCN | C19H25N5O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-N-(2-thiazolyl)-1-piperidineethanamine ethanedioate | 27% | C(C(=O)O)(=O)O.O1C(=CC=C1)CN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CCNC=2SC=CN2 | InChI=1S/C22H26N6OS.C2H2O4/c1-4-19-21(23-7-1)28(16-18-3-2-13-29-18)20(26-19)15-17-5-10-27(11-6-17)12-8-24-22-25-9-14-30-22;3-1(4)2(5)6/h1-4,7,9,13-14,17H,5-6,8,10-12,15-16H2,(H,24,25);(H,3,4)(H,5,6)
